US03957769
I. 6-Chloro-3-methylamino-1-phenyl-7-sulfamyl-1,2,4-benzothiadiazine-1-oxide, hydrochloride
To a stirred mixture of 5.14 g. (0.066 mole) of 40% aqueous methylamine solution and 50 ml. of glyme is added, over a 30 minute period, a solution of 13.5 g. (0.035 mole) of 3,6-dichloro-1-phenyl-7-sulfamyl-1,2,4-benzothiadiazine -1-oxide in 150 ml. of glyme. The reaction mixture is heated under reflux for 10 hours, cooled, concentrated to dryness, and suspended in 100 ml. of 10% hydrochloric acid. Filtration of the solid material yields the product.

reactant | methylamine | 0.066 mole | CN | CH5N
reactant | 3,6-dichloro-1-phenyl-7-sulfamyl-1,2,4-benzothiadiazine -1-oxide | 0.035 mole | ClC=1NS(C2=C(N1)C=C(C(=C2)S(N)(=O)=O)Cl)(C2=CC=CC=C2)=O | C13H11Cl2N3O3S2
solvent | glyme | C(OC)COC | C4H10O2
product | 6-Chloro-3-methylamino-1-phenyl-7-sulfamyl-1,2,4-benzothiadiazine-1-oxide, hydrochloride | Cl.ClC=1C(=CC2=C(N=C(NS2(C2=CC=CC=C2)=O)NC)C1)S(N)(=O)=O | InChI=1S/C14H15ClN4O3S2.ClH/c1-17-14-18-11-7-10(15)12(24(16,21)22)8-13(11)23(20,19-14)9-5-3-2-4-6-9;/h2-8,23H,1H3,(H2,16,21,22)(H2,17,18,19,20);1H
